US04920128
Thionyl chloride (7.9 ml) was added dropwise over a 12 min period to a stirred solution of 16.3 g 2-chloro-6-methoxy-3-quinolinecarboxaldehyde oxime in 160 ml dimethylformamide at 0° C. The reaction mixture was stirred for 15 min longer at 0° C. and then at room temperature overnight. The mixture was then quenched in ice-water, and the yellow solid product was collected, washed with water and dried in vacuo at 75° C. to give 14.8 g 2-chloro-6-methoxy-3-quinolinecarbonitrile, m.p. 201°-202° C.

reactant | Thionyl chloride | 7.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-chloro-6-methoxy-3-quinolinecarboxaldehyde oxime | 16.3 g | ClC1=NC2=CC=C(C=C2C=C1C=NO)OC | C11H9ClN2O2
solvent | dimethylformamide | 160 ml | CN(C=O)C | C3H7NO
product | 2-chloro-6-methoxy-3-quinolinecarbonitrile | 14.8 g | ClC1=NC2=CC=C(C=C2C=C1C#N)OC | C11H7ClN2O
